Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Diovan / Darvon / Darvocet-N
 
Attending: ___
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
Coronary angiography with DES to distal LCx on ___
 
History of Present Illness:
Mr. ___ is a ___ year old man with a H/O multiple TIAs, 
hypertension, and hyperlipidemia who presents as a transfer from 
___ with chest pain and elevated troponin.

The patient experienced an acute onset of substernal chest pain 
that began at 10 pm on ___ at home. He was at rest. The pain was 
intense, ___ and constant in nature and radiation to the right 
arm, worst in the forearm. He is unable to specify whether it is 
stabbing, sharp, pressure, or squeezing. He has never had pain 
like this in the past. He took aspirin 325 mg one hour later and 
presented to ___. 

He reports that he is not taking a statin at home though he has 
been told to do so in the past. He has not taken his home 
lisinopril for the past week as he ran out of medications. He 
takes aspirin 325 mg daily. He reports that he exercises often 
and has been told his HR is low in the past.

At ___, pulse 62 and BP 176/106. Per records, he had three 
EKGs at ___:  ___ with NSR rate 61 with normal intervals, 
normal axis, no ischemic changes. Second with sinus rhythm rate 
67 with slightly more upsloping T waves in V5 and V6. Third EKG 
with sinus bradycardia at rate 51 with less than ___levation in leads II, III, V6. His troponin I was 0.11 (listed 
as H with no ref range available in paperwork). D-dimer 348. CTA 
chest abdomen pelvis was negative for pulmonary embolus and for 
aortic dissection. He received one SL nitro with no effect. He 
was given morphine 4 mg IV and started on heparin with bolus 
4000 units and gtt at 1000 units at 1 am on ___. He was 
transferred to ___ for consideration of coronary angiography. 
He experienced ___ chest pain in the ED and he was started on 
nitro gtt.

He is an active smoker, 1 ppd. He does not drink alcohol. He 
uses cocaine once or twice per year, last one month ago. He 
reports a history of TIA. Two TIAs happened in one day ___ years 
ago then again ___ years ago. He had transient left sided weakness 
in the face, arm, leg and slurring of speech that resolved 
spontaneously. 
 
Past Medical History:
1. CAD RISK FACTORS  
- Diabetes - denies
- Hypertension  - yes
- Dyslipidemia  - yes
2. CARDIAC HISTORY  
- CABG: None  
- PERCUTANEOUS CORONARY INTERVENTIONS: None  
- PACING/ICD: None  
3. OTHER PAST MEDICAL HISTORY  
- Hypertension
- TIAs
 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or 
sudden cardiac death. Diabetes mellitus in mother. ___ GM 
died of cancer, possibly lung cancer. Denies family history of 
CVA.
 
Physical Exam:
On admission
GENERAL: WDWN young white man in NAD. Oriented x3. Mood, affect 
appropriate but anxious appearing.
VS: T 98.4 BP 137/86 HR 50 RR 20 SaO2 98% on RA
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthelasma.
NECK: Supple with JVP not elevated
CARDIAC: RRR, normal S1, S2. No murmurs, rubs, gallops. No 
thrills, lifts. 
LUNGS: Resp were unlabored, no accessory muscle use. No 
crackles, wheezes or rhonchi.
ABDOMEN: Soft, non-tender, not distended. No HSM or tenderness.  

EXTREMITIES: No clubbing, cyanosis or edemia. Right toes tender 
to palpation (reports he broke them on ___
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES: Carotid, radial, femoral, DP, ___ pulses 2+ bilaterally. 
No femoral or carotid bruits are auscultated.
NEURO: CN II-XII intact. Sensation to light touch intact 
throughout. Strength ___ in upper and lower extremities. Speech 
is fluent.

At discharge
GENERAL: well-appearing man sitting upright in bed, speaking 
full sentences on RA, in NAD
HEENT: normocephalic and atraumatic. Peeling lesions on top of 
head
PULM: clear to auscultation bilaterally without wheezes, rales 
or rhonchi; moderate air movement throughout
CORONARY: Normal rate, regular rhythm. Normal S1 and S2. Grade 
II/VI systolic murmur best appreciated at apex without variation 
with respiration without radiation, no rubs or gallops. JVP 
flat.
CAROTID: 2+ and symmetric pulses, no delay in upstroke, no 
bruits appreciated
ABDOMEN: soft, non-tender, non-distended
EXTREMITIES: warm and well-perfused without ___ edema. DP and ___ 
2+ and symmetric. L toes tender to palpation
 
Pertinent Results:
___ 03:25AM BLOOD WBC-12.8* RBC-4.96 Hgb-15.5 Hct-43.8 
MCV-88 MCH-31.3 MCHC-35.4 RDW-12.3 RDWSD-39.8 Plt ___
___ 03:25AM BLOOD Neuts-60.9 ___ Monos-6.7 Eos-3.6 
Baso-0.8 Im ___ AbsNeut-7.81* AbsLymp-3.53 AbsMono-0.86* 
AbsEos-0.46 AbsBaso-0.10*
___ 03:25AM BLOOD ___ PTT-57.0* ___

___ 03:25AM BLOOD Glucose-96 UreaN-6 Creat-0.8 Na-136 
K-5.6* Cl-99 HCO3-24 AnGap-19
___ 03:25AM BLOOD Calcium-9.1 Phos-4.4 Mg-2.1
___ 06:51AM BLOOD %HbA1c-5.5 eAG-111
___ 03:35AM BLOOD Lactate-1.6

___ 03:25AM BLOOD CK(CPK)-201
___ 03:25AM BLOOD CK-MB-18* MB Indx-9.0* proBNP-45
___ 03:25AM BLOOD cTropnT-0.04*
___ 09:08PM BLOOD cTropnT-1.53*
___ 03:11AM BLOOD CK-MB-43* cTropnT-1.00*
___ 05:00AM BLOOD CK-MB-35* cTropnT-0.81*

ECG ___ 5:49:02 AM
Sinus bradycardia with sinus arrhythmia. Poor R wave 
progression. Non-specific anterolateral T wave flattening and 
prolonged Q-T interval. No previous tracing available for 
comparison. 

Cardiac catheterization ___
LV 160/31
Coronary angiography
- Dominance: right
- LMCA: no disease
- LAD: Mid vessel focal 40% stenosis
- LCx: Distal subtotal occlusion
- RCA: Anterior takeoff. Mid vessel focal 70% stenosis
- Interventional Details: After discussion with Dr. ___ 
(___) and the patient, we proceeded with PCI of the LCx. 
EBU 3.5 ___ guide catheter engaged the LM. The vessel was wired 
with a Prowater wire. Angioplasty with a 1.5 balloon followed by 
placement of a 2.25 x 16 mm Promus Premier DES. ___ 
with a 3.0 NC balloon at ___ ATM throughout.
Impressions:
Subtotal occlusion of distal LCx.
Moderate to severe RCA stenosis. Mild LAD disease.
Successful PCI with DES of LCx (2.25 ___ to 2.5 
mm).
Recommendations
ASA for life, Clopidogrel 75 mg daily x 30 months minimum.
Evaluation of symptoms for ? need for RCA intervention. 

Echocardiogram ___
The left atrium and right atrium are normal in cavity size. No 
atrial septal defect is seen by 2D or color Doppler. The 
estimated right atrial pressure is ___ mmHg. Mild symmetric left 
ventricular hypertrophy with normal cavity size, and 
regional/global systolic function (biplane LVEF = 62 %). Doppler 
parameters are indeterminate for left ventricular diastolic 
function. Right ventricular chamber size and free wall motion 
are normal. The aortic valve leaflets are mildly thickened (?#). 
There is mild aortic valve stenosis (valve area 1.2-1.9cm2). No 
aortic regurgitation is seen. The mitral valve leaflets are 
mildly thickened. There is no mitral valve prolapse. Physiologic 
mitral regurgitation is seen (within normal limits). The 
pulmonary artery systolic pressure could not be determined. 
There is no pericardial effusion. 
   IMPRESSION: Mild symmetric left ventricular hypertrophy with 
preserved global and regional biventricular systolic function. 
Mild aortic stenosis.  

DISCHARGE LABS
___ 05:00AM BLOOD WBC-9.9 RBC-5.04 Hgb-15.7 Hct-44.6 MCV-89 
MCH-31.2 MCHC-35.2 RDW-12.3 RDWSD-39.8 Plt ___
___ 05:00AM BLOOD Glucose-118* UreaN-9 Creat-0.9 Na-140 
K-4.5 Cl-102 HCO3-26 AnGap-12
___ 05:00AM BLOOD Calcium-9.5 Phos-3.4 Mg-2.3
 
Brief Hospital Course:
Mr ___ is a ___ yo M with H/O multiple TIAs, hypertension, 
hyperlipidemia and cocaine use disorder who presents as a 
transfer from ___ with chest pain and elevated 
troponins consistent with NSTEMI. CTA at ___ failed to 
demonstrate evidence of pulmonary embolus or or aortic 
dissection. At ___, he underwent PCI with DES x1 to distal LCx 
with improvement in flow and resolution of symptoms. TTE 
demonstrated preserved EF. He endorsed no signs or symptoms of 
heart failure.

ACUTE ISSUES:
# NSTEMI / CAD: Mr. ___ presented with ___ chest 
pain at rest with positive cardiac biomarkers without definitive 
ischemic changes on ECG (no ST depressions, no ST elevations > 1 
mm, no T wave changes), all consistent with a NSTEMI. 
Right-sided ECG did not demonstrate any evidence of RV 
infarction. His CAD risk factors included hypertension, 
hyperlipidemia, ongoing cigarette smoker, and intermittent 
cocaine use. He was initially started on nitroglycerine gtt 
without change in chest pain and then received morphine 4 mg IV 
with resolution of chest pain. He was started on heparin gtt and 
was taken for cardiac catheterization on ___. This 
demonstrated Right dominance, subtotal occlusion of the distal 
LCx and 70 % mid RCA stenosis. He received DES x1 to the distal 
LCx with improvement in flow and resolution of symptoms. TTE 
demonstrated LVEF = 62 % with preserved biventricular regional 
and global systolic function, indeterminate LV diastolic 
function, mild aortic stenosis (valve area 1.2-1.9 cm2) and mild 
symmetric LVH. Troponin-T peaked at 1.53 and CK-MB peaked at 43. 
HbA1c = 5.5 %. He was started on dual antiplatelet therapy with 
aspirin 81 mg PO daily and clopidogrel 75 mg PO daily, for a 
planned 30 months following a clopidogrel load of 600mg. 
Atorvastatin 80 mg PO daily was also started, which Mr ___ 
tolerated well. Given asymptomatic bradycardia with rates as low 
as mid-30s and Mr. ___ history of cocaine use, 
beta-blockade was not initiated. As described below, Mr. ___ 
was discharged on amlodipine 10 mg PO daily for his residual CAD 
and lisinopril 10 mg PO daily for hypertension and post-MI 
secondary prevention. We discussed at length the importance of 
smoking cessation, and Mr ___ agreed to trying nicotine 
patches.

# Hypertension: Mr. ___ was initially hypertensive with SBP 
= 176 mm Hg on presentation to ___. He was started 
on nitroglycerine gtt which, along with analgesics, brought his 
SBP to the 150s. He reported being prescribed lisinopril 10 mg 
PO daily, though he stated that he had not been taking this for 
approximately 1 week prior to admission as he ran out. Later he 
reported that he had not received a prescription for lisinopril 
in "years." In the ___ period, he was started 
on amlodipine 10 mg PO daily, which he tolerated well. On 
discharge, lisinopril 10 mg PO daily was restarted.

CHRONIC PROBLEMS:
# History of TIA: Mr. ___ reports 4 TIA-like episodes, last 
___ years ago, characterized by L sided weakness (face, arm and 
leg) and slurred speech. These occurred in the context of 
arguing with his then-girlfriend. He stated that no cause had 
been found. He reported being told by a Neurologist to take 
full-dose aspirin and a statin, though he stated that he had 
been non-compliant with the statin. He denied any persistent 
symptoms, and neurologic exam remained unremarkable during this 
hospital stay. He was discharged on DAPT (aspirin and 
clopidogrel) and atorvastatin.

# Cocaine Use Disorder: Mr. ___ reported using cocaine "a 
few times a year," last approximately 4 weeks prior to 
admission. We discussed cocaine use as a risk factor for MI, and 
he stated that he understood. He did not endorse plans to 
continue using cocaine.

TRANSITIONAL ISSUES:
MEDICATIONS STARTED: amLODIPine 10 mg PO/NG DAILY, Atorvastatin 
80 mg PO/NG QPM, Clopidogrel 75 mg PO/NG DAILY, Nicotine Patch 
14 mg TD DAILY
- Patient hypertensive to SBP 160-180s while inpatient but 
improved to 110-130s after being started on amlodipine (home 
lisinopril continued but unclear as to how reliably he was 
taking this). Repeat BP as outpatient for potential adjustment 
of his antihypertensives.
- Consider rechecking kidney function/electrolytes for patient 
restarting ACE-I
- Patient counseled as to the importance of smoking cessation 
and discharged with nicotine patches.
- Patient counseled as to the importance of abstaining from 
cocaine use and seen by social work prior to discharge.
- Patient will be on lifetime aspirin 81 mg daily and 
clopidogrel 75 mg daily for at least one year after ___ 
___.
- Patient had f/u w/ new PCP (Dr. ___ at ___ 
___ and cardiology (Dr. ___ at ___). Cardiology 
f/u not until next month but patient provided with instructions 
to call next week to see if any sooner appointments available.
 
Medications on Admission:
1. Lisinopril 10 mg PO DAILY 
2. Aspirin 325 mg PO DAILY 
 
Discharge Medications:
1.  amLODIPine 10 mg PO DAILY 
RX *amlodipine 10 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*1 
2.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth QPM Disp #*30 Tablet 
Refills:*1 
3.  Clopidogrel 75 mg PO DAILY to prevent stent thrombosis 
RX *clopidogrel 75 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*1 
4.  Nicotine Patch 14 mg TD DAILY 
RX *nicotine 14 mg/24 hour Apply one patch daily Disp #*14 Patch 
Refills:*0
RX *nicotine 7 mg/24 hour Apply one patch daily Disp #*14 Patch 
Refills:*0 
5.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*1 
6.  Lisinopril 10 mg PO DAILY 
RX *lisinopril 10 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*1 
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
# Non-ST Elevation Myocardial Infarction with 
# Multivessel Coronary Artery Disease
# Hypertension
# History of Transient Ischaemic Attack
# Cocaine Use Disorder
# Tobacco/nicotine addiction (cigarettes)
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital for chest pain. You were found 
to have very high blood pressure, and lab tests (specifically, 
cardiac enzymes) showed us that you had a heart attack. We 
controlled your pain and blood pressure with medications through 
the IV (specifically, morphine and nitroglycerine). You 
underwent a procedure called a cardiac catheterization, which 
allowed us to look at the blood vessels in your heart. We saw 
that you had a blockage in one of them (specifically, at the far 
end of the left circumflex artery, also known as the distal 
LCx), which was opened with a small balloon. A metal tube, 
called a stent, was placed in this artery to help keep it open. 
You tolerated this procedure well, and did not have any further 
chest pain after this procedure. You then had an echocardiogram, 
or an ultrasound picture of your heart. This picture showed us 
that your heart's ability to squeeze and pump blood was still 
within the normal range. In addition, we monitored your heart 
during this hospital stay, and it showed slow heart rates with 
normal heart rhythm (also called sinus bradycardia).

Due to this heart attack, you received several medications that 
you shall need to continue after leaving the hospital. Most 
importantly, you were started on aspirin at a dose of 81 mg 
every day (also known as a "baby aspirin") and clopidogrel (also 
called Plavix) at a dose of 75 mg every day. These medications 
help to keep your stent open. Missing even a single dose of 
either of these medications could cause a massive heart attack 
and/or death. It is very important that you do not stop taking 
these two medications without first speaking with a 
cardiologist.

In addition, you were started on a medication called 
atorvastatin (also called Lipitor) at a dose of 80 mg every 
evening. This medication is to keep your heart arteries healthy, 
to prevent future heart attacks, and to lower your cholesterol. 
This medication has specifically been proven to help patients 
live longer after a heart attack.

For your high blood pressure, you were started on a new 
medication called amlodipine (also called Norvasc) at a dose of 
10 mg every day. We continued your old high blood pressure 
medication, called lisinopril, still at the same dose of 10 mg 
every day. We would like you to continue using both of these 
medications for high blood pressure.

We discussed at length the importance of quitting smoking to 
keep your heart healthy, to prevent future heart attacks, and 
for your overall health. You are leaving the hospital with a 
prescription for nicotine patches, which ought to help curb 
cravings for tobacco. In addition, we discussed the importance 
of quitting cocaine to keep your heart healthy, to prevent 
future heart attacks, to control your blood pressure, and for 
your overall health.

It is very important that you keep your follow-up appointments 
with both your new primary care physician and with your new 
Cardiologist (heart doctor). Please do not stop or skip any 
doses of your medications without first speaking with these 
doctors.

___ was a pleasure taking care of you at the ___ 
___ ___. Thank you for allowing us to be 
involved in your care, we wish you all the best!  

Your ___ Healthcare Team
 
Followup Instructions:
___